US09212172B2
Preparation of Crystalline Bazedoxifene Acetate Form D
Crystalline bazedoxifene free base (60 g) is charged in a mixture of methanol (720 mL) and isopropyl alcohol (480 mL) and heated at reflux temperature to make a clear solution. The solution is filtered and cooled to 25-30° C. followed by addition of acetic acid (9.94 g). The reaction mixture is stirred for 15-30 minutes and subsequently seed crystals of Form D (3 g) are added and further the mixture is stirred at the same temperature for about 30 minutes. The reaction mixture is then cooled to 0-5° C. over a period of 1 hour and stirred at the same temperature for 15-30 minutes. The solid is collected by filtration and washed with pre-cooled mixture of methanol (72 mL) and isopropyl alcohol (48 mL), and dried under vacuum at about 90° C. for 5-8 hours to afford the title compound in about 87% yield.

reactant | bazedoxifene | 60 g | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O | C30H34N2O3
reactant | methanol | 720 mL | CO | CH4O
solvent | isopropyl alcohol | 480 mL | C(C)(C)O | C3H8O
product | Bazedoxifene Acetate | about 87% yield | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O.CC(=O)O | InChI=1S/C30H34N2O3.C2H4O2/c1-22-28-20-26(34)12-15-29(28)32(30(22)24-8-10-25(33)11-9-24)21-23-6-13-27(14-7-23)35-19-18-31-16-4-2-3-5-17-31;1-2(3)4/h6-15,20,33-34H,2-5,16-19,21H2,1H3;1H3,(H,3,4)
